US08466152B2
5-Benzyloxy-6-methyl-1H-indole-2-carboxylic acid methyl ester
To a solution of (Z)-3-(5-benzyloxy-2-bromo-4-methylphenyl)-2-benzyloxy-carbonylaminoacrylic acid methyl ester (0.2 g) and copper (I) iodide (0.075 g) in dimethylsulfoxide (8 mL) was added cesium acetate (0.38 g) at room temperature and this mixture was stirred under argon atmosphere at 90° C. for 5 hours. To this reaction mixture was added aqueous ammonia solution (28%) and the precipitated solid was collected by filtration, and washed with water, dried under reduced pressure to give the title compound (0.073 g).

reactant | (Z)-3-(5-benzyloxy-2-bromo-4-methylphenyl)-2-benzyloxy-carbonylaminoacrylic acid methyl ester | 0.2 g | COC(/C(=C(\C1=C(C=C(C(=C1)OCC1=CC=CC=C1)C)Br)/N=C=O)/OCC1=CC=CC=C1)=O | C26H22BrNO5
reactant | cesium acetate | 0.38 g | C(C)(=O)[O-].[Cs+]
reactant | ammonia | N | H3N
solvent | dimethylsulfoxide | 8 mL | CS(=O)C | C2H6OS
catalyst | copper (I) iodide | 0.075 g | [Cu]I
product | 5-Benzyloxy-6-methyl-1H-indole-2-carboxylic acid methyl ester | 0.073 g | COC(=O)C=1NC2=CC(=C(C=C2C1)OCC1=CC=CC=C1)C | C18H17NO3
